US04386034
(D) (3S-trans)-3-Amino-4-methyl-2-oxo-1-azetidinesulfonic acid
(3S-trans)-3-[(Phenylacetyl)amino]-4-methyl-2-oxo-1-azetidinesulfonic acid, tetra-n-butylammonium salt (3.79 g) is dissolved in 70 ml of methylene chloride, cooled to -15° C. and 2.3 ml of pyridine is added. The cold mixture is treated with 5.8 ml of a 12% mixture of phosgene in benzene and stirred at -10° C. for 90 minutes. Methanol (35 ml) is added and the mixture is stirred for 30 minutes followed by the addition of 1.62 ml of trifluoroacetic acid. The reaction mixture is allowed to warm to room temperature and stirred for 16 hours. The precipitated material is collected by filtration, washed with methylene chloride and dried to yield 0.43 g of the title compound.

reactant | (3S-trans)-3-[(Phenylacetyl)amino]-4-methyl-2-oxo-1-azetidinesulfonic acid, tetra-n-butylammonium salt | 3.79 g | C(CCC)[N+](CCCC)(CCCC)CCCC.C1(=CC=CC=C1)CC(=O)N[C@@H]1C(N([C@H]1C)S(=O)(=O)[O-])=O
reactant | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | trifluoroacetic acid | 1.62 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | Methanol | 35 ml | CO | CH4O
product | (3S-trans)-3-Amino-4-methyl-2-oxo-1-azetidinesulfonic acid | 0.43 g | N[C@@H]1C(N([C@H]1C)S(=O)(=O)O)=O | C4H8N2O4S
